* C:\Users\Admin\cap-fit\test\MultiCapModel.asc
C1 N001 N003 22µ
C2 N001 N002 22µ
C3 N001 N004 4.7µ
C4 N001 N006 330µ
C5 N001 N005 100µ
R1 N006 N011 10m
R2 N005 N010 10m
R3 N004 N009 1m
R4 N003 N008 1m
R5 N002 N007 1m
L1 N011 0 2.5n
L2 N010 0 2n
L3 N009 0 1n
L4 N008 0 1n
L5 N007 0 1n
V1 N001 0 AC 1
R6 N001 0 10Meg
.ac dec 50 100 10MEG
.backanno
.end
